### PR TITLE
remove duplicate definitions of `flip`

### PR DESCRIPTION
**Pull request by siddharthist**
Also, generalizes it and shows that it's a weak equivalence.

### CODE REVIEW

**Comment by DanGrayson** [comment]
This is okay with me, but is it going to be useful for anything?

**Comment by siddharthist** [comment]
It is used twice already, and is a common pattern in functional programming. I don't have much grounds to say it might be used more, but it's certainly worth not defining it twice.

**Comment by DanGrayson** [comment]
Oh, yes, I agree.  But I was actually wondering if you have an application in mind for ` flipsec_weq `.

File: UniMath/MoreFoundations/PartA.v [hunk 1]
```diff
@@ -138,3 +138,16 @@ Proof.
...
   apply idpath.
 Defined.
+
+(** Flip the arguments of a function *)
+Definition flipsec {A B : UU} {C : A -> B -> UU} (f : ∏ a b, C a b) : ∏ b a, C a b :=
+  λ x y, f y x.
+Notation flip := flipsec.
+
+(** Flip is a weak equivalence (in fact, it is an involution) *)
+Lemma isweq_flipsec {A B : UU} {C : A -> B -> UU} : isweq (@flipsec A B C).
```
Comment (mortberg) [inline UniMath/MoreFoundations/PartA.v]: `Proof.` missing

**Comment by siddharthist** [comment]
@DanGrayson The one that comes to mind is using `intermediate_weq` with something of the form `∏ x y, z` to turn it into `∏ y x, z`. I was fiddling with a proof that did just that, so that I could then `use weqonsecfibers`.

**Comment by siddharthist** [comment]
Perhaps it's because I've been thinking about it recently, but when showing that `type_precat` has exponentials, I'm trying to prove a goal of the form `Y → X → X × Y` which would be solved elegantly with `flip dirprodpair`.

**Comment by siddharthist** [comment]
I've updated this to account for where I added another version of `flip` in #927

File: UniMath/MoreFoundations/PartA.v (hunk 1 above)
Comment (siddharthist) [reply UniMath/MoreFoundations/PartA.v]: Fixed! Thanks.
